US05491144
4,5-Bis(4-benzyloxy-anilino)phthalimide
Analogously to Example 1, 294.4 mg (0.5 mmol) of 4,5-bis(4-benzyloxy-anilino)phthalic acid dimethyl ester in 22 ml of ethylene glycol are heated at 120°, ammonia gas being passed through the mixture, with stirring, for 16 hours. The reaction mixture is cooled and extracted with ethyl acetate. The ethyl acetate phases are washed in succession three times with water and once with saturated sodiumchloride solution, dried with sodium sulfate and concentrated by evaporation. The evaporation residue is chromatographed on silica gel withdichloromethane/methanol 50:1 and the product fractions are combined and concentrated by evaporation, yielding the title compound in the form of red crystals, m.p. 187°-189° C., FAB-MS: 542 [M+ +H].

reactant | 4,5-bis(4-benzyloxy-anilino)phthalic acid dimethyl ester | 0.5 mmol, 294.4 mg | COC(C=1C(C(=O)OC)=CC(=C(C1)NC1=CC=C(C=C1)OCC1=CC=CC=C1)NC1=CC=C(C=C1)OCC1=CC=CC=C1)=O | C36H32N2O6
reactant | ammonia | N | H3N
solvent | ethylene glycol | 22 ml | C(CO)O | C2H6O2
product | 4,5-Bis(4-benzyloxy-anilino)phthalimide | C(C1=CC=CC=C1)OC1=CC=C(NC=2C=C3C(C(=O)NC3=O)=CC2NC2=CC=C(C=C2)OCC2=CC=CC=C2)C=C1 | C34H27N3O4
